US06310099B1
N,N-dimethyl-5-methyl-2-(2′,4′-dichloro-6′-methylanilino)phenylacetamide (1.5 g, 4.3 mmol) is hydrolyzed with 6N NaOH (70 ml) as a two phase solution with n-BuOH (40 ml) at reflux temperature for 14 hours. After cooling to room temperature, the mixture is poured over ice (100 ml). Toluene (100 ml) is added and the mixture transferred to a separatory funnel. The aqueous phase is brought to a pH of 1 with 3 N HCl. The organic phase is separated and the aqueous phase re-extracted with toluene (100 ml). The combined organic solution is dried (MgSO4) and concentrated under high vacuum (35-50 mbar), on a rotovap, taking care not to warm above 50°. Upon crystallization from Et2O/hexane, 5-methyl-2-(2′,4′-dichloro-6′-methylanilino)phenylacetic acid is obtained as a tan solid, m.p. 137-141°.

reactant | N,N-dimethyl-5-methyl-2-(2′,4′-dichloro-6′-methylanilino)phenylacetamide | 4.3 mmol, 1.5 g | CN(C(CC1=C(C=CC(=C1)C)NC1=C(C=C(C=C1C)Cl)Cl)=O)C | C18H20Cl2N2O
reactant | NaOH | 6N, 70 ml | [OH-].[Na+]
reactant | n-BuOH | 40 ml | CCCCO | C4H10O
reactant | HCl | 3 N | Cl | ClH
solvent | Toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 5-methyl-2-(2′,4′-dichloro-6′-methylanilino)phenylacetic acid | CC=1C=CC(=C(C1)CC(=O)O)NC1=C(C=C(C=C1C)Cl)Cl | C16H15Cl2NO2
